US03957757
20 gm of lithium aluminum hydride were added over 15 minutes to iced 400 cc of tetrahydrofuran and then a solution of 36 gm of 9-methoxycarbonyl-9-(β-dimethylaminoethyl)-10-methyl-acridane in 400 cc of tetrahydrofuran was added thereto over 30 minutes. The mixture was refluxed for 2 hours, then refrigerated and 200 cc of tetrahydrofuran containing 20% water were added thereto at a temperature below 0°C. The mixture was filtered and the filtrate was washed with methylene chloride and distilled to dryness in vacuo. The residue was dissolved in methylene chloride and the organic phase was washed with water, dried over magnesium sulfate and concentrated while adding ethyl acetate to replace the methylene chloride. Crystallization started and after icing for one hour the mixture was filtered. The precipitate was washed with water and was dried to obtain 24.5 gm of 9-hydroxymethyl-9-(β-dimethylaminoethyl)-10-methyl-acridane melting at 150°C. Concentration of the mother liquor gave a second cup of 1.6 gm of the product for a total yield of 79%.

reactant | lithium aluminum hydride | 20 gm | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | 9-methoxycarbonyl-9-(β-dimethylaminoethyl)-10-methyl-acridane | 36 gm | COC(=O)C1(C2=CC=CC=C2N(C=2C=CC=CC12)C)CCN(C)C | C20H24N2O2
solvent | tetrahydrofuran | 400 cc | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 200 cc | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 400 cc | O1CCCC1 | C4H8O
product | 9-hydroxymethyl-9-(β-dimethylaminoethyl)-10-methyl-acridane | 24.5 gm | OCC1(C2=CC=CC=C2N(C=2C=CC=CC12)C)CCN(C)C | C19H24N2O
